US03994890
By the procedure similar to that described in Example 33, 1-phthalimidopropyl-3-phenyl-5-methylindazole (5.0 g) and hydrazine hydrate (1.5 g) were treated to obtain 3.1 g of 1-aminopropyl-3-phenyl-5-methylindazole as an oily product. The product was converted by a conventional way to its hydrochloride having a melting point between 161°-163° C.

reactant | 1-phthalimidopropyl-3-phenyl-5-methylindazole | 5.0 g | C1(C=2C(C(N1C(CC)C1=C3C(=NNC3=CC=C1C)C1=CC=CC=C1)=O)=CC=CC2)=O | C25H21N3O2
reactant | hydrazine hydrate | 1.5 g | O.NN
product | 1-aminopropyl-3-phenyl-5-methylindazole | 3.1 g | NC(CC)C1=C2C(=NNC2=CC=C1C)C1=CC=CC=C1 | C17H19N3
